US08754100B2
Synthesis of 4-chloro-2-(2-trifluoromethylphenyl)butyronitrile
4-Hydroxy-2-(2-trifluoromethylphenyl) butyronitrile (2.6 g) was dissolved in pyridine (10 mL). Thionyl chloride (2.1 mL) was carefully added and the mixture was heated with stirring at 60° C. for four hours. Water was added to the reaction solution, followed by extraction with ethyl acetate. The resulting organic layer was washed with brine and then dried over anhydrous sodium sulfate. The drying agent was separated by filtration, and then the organic layer was concentrated under reduced pressure. The residue was purified by silica gel column chromatography to obtain the title compound (1.3 g). The property values of the compound are as follows.

reactant | 4-Hydroxy-2-(2-trifluoromethylphenyl) butyronitrile | 2.6 g | OCCC(C#N)C1=C(C=CC=C1)C(F)(F)F | C11H10F3NO
reactant | Thionyl chloride | 2.1 mL | S(=O)(Cl)Cl | Cl2OS
reactant | Water | O | H2O
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 4-chloro-2-(2-trifluoromethylphenyl)butyronitrile | 1.3 g | ClCCC(C#N)C1=C(C=CC=C1)C(F)(F)F | C11H9ClF3N
